US08686002B2
1.2 (2-Chloroquinolin-3-yl)(2,6-dimethoxyphenyl)methanone
(2-Chloroquinolin-3-yl)(2,6-dimethoxyphenyl)methanol (0.5 g, 1.5 mmol) and triethylamine (0.84 mL, 6.1 mmol) were dissolved in dimethyl sulfoxide (20 mL) and mixed with a solution of sulfur trioxide-pyridine complex (0.72 g, 4.55 mol) in dimethyl sulfoxide (5 mL) under nitrogen. The batch was stirred at room temperature until the reaction was complete (TLC monitoring). After adding water, the mixture was stirred for 1 hour at room temperature. The precipitated product was filtered with suction, washed with water and dried in a vacuum drying cabinet (20 mbar, 50° C.). Yield: 0.45 g (1.37 mmol, 91%).

reactant | (2-Chloroquinolin-3-yl)(2,6-dimethoxyphenyl)methanol | 1.5 mmol, 0.5 g | ClC1=NC2=CC=CC=C2C=C1C(O)C1=C(C=CC=C1OC)OC | C18H16ClNO3
reactant | triethylamine | 6.1 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | (2-Chloroquinolin-3-yl)(2,6-dimethoxyphenyl)methanone | ClC1=NC2=CC=CC=C2C=C1C(=O)C1=C(C=CC=C1OC)OC | C18H14ClNO3
